US08026257B2
tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a suspension of tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (2.26 g, 7.30 mmol) and rhodium(II) acetate dimer (4.84 mg, 11 μmol) in benzene (4 mL) at reflux was added a solution of methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-diazoacetate (1.39 g, 3.65 mmol) in benzene (3 mL) via syringe pump over 60 h. After addition was complete, the reaction was cooled. It became a very viscous solution. The reaction mixture was diluted with 20% ethyl acetate/n-hexane and loaded onto a column. Column chromatography (20% ethyl acetate/n-hexane→25% ethyl acetate/n-hexane) gave 1.88 g (78%) as a yellow foam solid. 1H-NMR (CDCl3, 500 MHz) δ 8.03 (s, 1H), 7.58 (d, J=1.8 Hz, 1H), 7.29 (dd, J=8.5, 5.2 Hz, 2H), 7.06 (s, 1H), 6.97 (dd, J=8.9, 8.5 Hz, 2H), 5.68 (d, J=10.7 Hz, 1H), 5.65 (d, J=10.7 Hz, 1H), 5.42 (s, 1H), 3.71 (bs, 2H), 3.61 (s, 3H), 3.60 (t, J=8.6 Hz, 2H), 3.39 (d, J=8.9 Hz, 1H), 3.03 (m, 2H), 2.16 (m, 1H), 2.08 (m, 1H), 1.93 (m, 2H), 1.42 (s, 9H), 0.91 (t, J=8.2 Hz, 2H), −0.05 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 170.5, 161.5 (d, J=246 Hz), 155.0, 145.6, 138.3, 128.9 (d, J=7.7 Hz), 127.9, 125.5, 122.8, 122.5, 119.5, 115.2 (d, J=21 Hz), 82.1, 79.4, 78.6, 76.4, 67.7, 52.3, 41.4, 40.0 (br), 32.1, 31.9, 28.6, 17.9, −1.4. Mass spec.: 662.53 (MH)+.

reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 7.30 mmol, 2.26 g | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-diazoacetate | 3.65 mmol, 1.39 g | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)OC)=[N+]=[N-])COCC[Si](C)(C)C | C16H21ClN4O3Si
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
catalyst | rhodium(II) acetate dimer | 11 μmol, 4.84 mg | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H45ClFN3O6Si
